US07718663B2
4-[((1S,2R)-2-{[amino(imino)methyl]amino}cyclohexyl)amino]-N-(4-methoxyphenyl)-6-methylquinazoline-2-carboxamide dihydrochloride
To a solution of 2.07 g of 4-{[(1S,2R)-2-({(tert-butoxycarbonyl)amino[(tert-butoxycarbonyl)imino]methyl}amino)cyclohexyl]amino}-N-(4-methoxyphenyl)-6-methylquinazoline-2-carboxamide in 10 ml of methanol and 10 ml of chloroform, 40 ml of a 4N-hydrogen chloride-ethyl acetate solution was added, and then the mixture was reacted at 50° C. for 15 hours. The reaction solution was concentrated and recrystallized from methanol-diisopropyl ether to obtain 952 mg of the desirable compound as a yellow powder.

reactant | 4-{[(1S,2R)-2-({(tert-butoxycarbonyl)amino[(tert-butoxycarbonyl)imino]methyl}amino)cyclohexyl]amino}-N-(4-methoxyphenyl)-6-methylquinazoline-2-carboxamide | 2.07 g | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)NC1=CC=C(C=C1)OC | C34H45N7O6
reactant | hydrogen chloride-ethyl acetate | C(C)(=O)OCC.Cl
solvent | methanol | 10 ml | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[((1S,2R)-2-{[amino(imino)methyl]amino}cyclohexyl)amino]-N-(4-methoxyphenyl)-6-methylquinazoline-2-carboxamide dihydrochloride | 952 mg | Cl.Cl.NC(=N)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)NC1=CC=C(C=C1)OC | InChI=1S/C24H29N7O2.2ClH/c1-14-7-12-18-17(13-14)21(29-19-5-3-4-6-20(19)30-24(25)26)31-22(28-18)23(32)27-15-8-10-16(33-2)11-9-15;;/h7-13,19-20H,3-6H2,1-2H3,(H,27,32)(H4,25,26,30)(H,28,29,31);2*1H/t19-,20+;;/m0../s1
